US08703742B2
7-(3-Benzyloxy-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
NaOH aq. (NaOH (3.64 g, 83 mmol) was added to 3-(3-benzyloxy-propoxy)-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (36 g, 91 mmol) in H2O (180 mL), and THF (50 mL) at rt, and the reaction mixture was stirred at rt for 5 min. MeNO2 (16.6 g, 273 mmol) was added dropwise and the mixture was stirred at rt for 16 h. The reaction mixture was acidified with 2 N HCl and extracted with EtOAc. The organic fraction was washed with H2O then brine, dried (MgSO4), and concentrated in vacuo. Purification was accomplished by flash chromatography (1:1 hexane/EtOAc) to give 15.9 g of the title compound as a light yellow oil (yield 50%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 9.05 (s, 1H), 7.44 (t, J=7.8 Hz, 1H), 7.35-7.20 (m, 5H), 7.06 (d, J=7.4 Hz, 1H), 6.88 (d, J=8.2 Hz, 1H), 5.70 (dd, J=9.4, 2.3 Hz, 1H), 5.29 (dd, J=13.7, 2.7 Hz, 1H), 4.53 (dd, J=13.3, 9.4 Hz, 1H), 4.45 (s, 2H), 4.11 (t, J=6.1 Hz, 2H), 3.60 (t, J=6.3 Hz, 2H), 2.04-1.91 (m, 2H); MS (ESI): m/z=356 (M−1, negative); HPLC purity: 99.35% (MaxPlot 200-400 nm), 97.32% (220 nm).

reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 83 mmol, 3.64 g | [OH-].[Na+]
reactant | 3-(3-benzyloxy-propoxy)-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 91 mmol, 36 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1)B1OC(C(O1)(C)C)(C)C | C23H29BO5
reactant | MeNO2 | 273 mmol, 16.6 g | C[N+](=O)[O-] | CH3NO2
reactant | HCl | 2 N | Cl | ClH
solvent | H2O | 180 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-(3-Benzyloxy-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 15.9 g, yield 50% | C(C1=CC=CC=C1)OCCCOC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O | C18H20BNO6
